US07439257B2
12.2. 3-[(1-naphthalenyloxy)methyl]-pyrrolidine
A solution of 0.42 g (1.28 mmol) of 1,1-dimethylethyl 3-[(1-naphthalenyloxy)methyl]-1-pyrrolidinecarboxylate, prepared in Step 12.1., in 10 ml of 1,4-dioxane and 6 ml of a 2N solution of aqueous hydrochloric acid is stirred for 6 hours. It is evaporated to dryness and then coevaporation is carried out twice with toluene. The solid residue is washed with diethyl ether. The solid is taken up in dichloromethane and concentrated ammonia solution is added until a basic pH is obtained. The system is filtered on a Whatman PTFE cartridge and the organic phase is concentrated, to give 0.21 g of oily product, which is used as it is in the following step.

reactant | 1,1-dimethylethyl 3-[(1-naphthalenyloxy)methyl]-1-pyrrolidinecarboxylate | 1.28 mmol, 0.42 g | C1(=CC=CC2=CC=CC=C12)OCC1CN(CC1)C(=O)OC(C)(C)C | C20H25NO3
reactant | hydrochloric acid | Cl | ClH
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 3-[(1-naphthalenyloxy)methyl]-pyrrolidine | 0.21 g | C1(=CC=CC2=CC=CC=C12)OCC1CNCC1 | C15H17NO
